US08193199B2
(8-Chloro-2-(5-fluoro-2-methoxyphenyl)quinoline-3-yl)methanamine
To a stirred solution of 3-(azidomethyl)-8-chloro-2-(5-fluoro-2-methoxyphenyl)-quinoline (210.7 mg, 615 μmol) in THF 5 mL and MeOH 12 mL was added palladium, 10 wt. % on activated carbon (0.329 mmol) and placed under a medium balloon containing H2. The reaction was complete after 2 h, it was filtered (Celite™) and solvents removed. Chromatography: Gradient 89:9:1. 1H NMR (400 MHz, choroform-d) δ ppm 8.30 (1H, s), 7.80 (2H, ddd, J=7.9, 6.5, 1.3 Hz), 7.49-7.50 (1H, m), 7.47 (1H, dd), 7.09-7.18 (2H, m), 6.93 (1H, dd, J=8.9, 4.2 Hz), 3.89 (2H, br. s.), 3.74 (3H, s) Mass Spectrum (ESI) m/e=317.0 (M+1).

reactant | 3-(azidomethyl)-8-chloro-2-(5-fluoro-2-methoxyphenyl)-quinoline | 615 μmol, 210.7 mg | N(=[N+]=[N-])CC=1C(=NC2=C(C=CC=C2C1)Cl)C1=C(C=CC(=C1)F)OC | C17H12ClFN4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 12 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | (8-Chloro-2-(5-fluoro-2-methoxyphenyl)quinoline-3-yl)methanamine | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC(=C1)F)OC)CN | C17H14ClFN2O
